US07060827B2
In like manner to the preparation of N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, the reaction of 3-hydroxyaniline with 2-chloro-N4-(4-chloro-2,5-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine gave N4-(4-chloro-2,5-dimethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-primidinediamine. 1H NMR (CD3OD): δ 7.96 (d, 1H, J=4.8 Hz), 7.66 (s, 1H), 7.13 (s, 1H), 7.07 (t, 1H, J=8.7 Hz), 8.86 (m, 2H), 6.57 (dd, 1H, J=3.2 and 8.1 Hz), 3.48 (s, 3H), 3.66 (s, 3H); 19F NMR (CD3OD): −46968.

reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
reactant | 2-chloro-N4-(4-chloro-2,5-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=C(C=C(C(=C1)OC)Cl)OC)F | C12H10Cl2FN3O2
product | N4-(4-chloro-2,5-dimethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-primidinediamine | ClC1=CC(=C(C=C1OC)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O)OC | C18H16ClFN4O3
